US06593333B1
Using analogous procedures to those described in the portion of Example 2 which is concerned with the preparation of starting materials, 4-chloro-6,7-dimethoxyquinazoline was reacted with 4-methyl-3-nitroaniline to give 4-(4-methyl-3-nitroanilino)-6,7-dimethoxyquinazoline hydrochloride; NMR: 2.54 (s, 3H), 3.98 (s, 3H), 4.02 (s, 3H), 7.38 (s, 1H), 7.58 (m, 1H), 8.06 (m, 1H), 8.43 (m, 2H), 8.89 (s, 1H), 11.72 (s, 1H); Mass: M+H+ 341 and that material was reduced during 5 hours to give 4-(3-amino-4-methylanilino)-6,7-dimethoxyquinazoline; NMR: 2.04 (s, 3H), 3.9 (s, 3H), 3.92 (s, 3H), 4.88 (s, 2H), 6.8 (m, 1H), 6.9 (m, 1H), 7.03 (s, 1H), 7.12 (m, 1H), 7.8 (s, 1H), 8.38 (s, 1H); 9.2 (s, 1H); Mass: M+H+ 311.

reactant | 4-chloro-6,7-dimethoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 4-methyl-3-nitroaniline | CC1=C(C=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
product | 4-(4-methyl-3-nitroanilino)-6,7-dimethoxyquinazoline hydrochloride | Cl.CC1=C(C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C1)[N+](=O)[O-] | InChI=1S/C17H16N4O4.ClH/c1-10-4-5-11(6-14(10)21(22)23)20-17-12-7-15(24-2)16(25-3)8-13(12)18-9-19-17;/h4-9H,1-3H3,(H,18,19,20);1H
